US04064138
L-arginine monofluorophosphate was prepared by combining 34.8 gm. of free-base L-arginine with 20 gm. of monofluorophosphoric acid in about 75 ml. of water. The resulting clear syrup was poured into 750 ml. of a mixture of methanol and ethanol. This was allowed to stand over night and the salt was collected by filtration. The resulting L-arginine monofluorophosphate was then rinsed with methanol and air dried.

reactant | L-arginine | N[C@@H](CCCNC(N)=N)C(=O)O | C6H14N4O2
reactant | monofluorophosphoric acid | OP(=O)(O)F | FH2O3P
reactant | water | O | H2O
reactant | methanol | CO | CH4O
solvent | ethanol | C(C)O | C2H6O
product | L-arginine monofluorophosphate | P(=O)(O)(O)F.N[C@@H](CCCNC(N)=N)C(=O)O | InChI=1S/C6H14N4O2.FH2O3P/c7-4(5(11)12)2-1-3-10-6(8)9;1-5(2,3)4/h4H,1-3,7H2,(H,11,12)(H4,8,9,10);(H2,2,3,4)/t4-;/m0./s1
